US06599925B2
Ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate
Following the procedure described in Method A, Step 5 of Example 1, the title compound was prepared from 1-[2-(5-bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone (1.58 g, 3.73 mmol), sodium hydride (0.194 g, 4.85 mmol), and ethyl bromoacetate (0.51 mL, 4.5 mmol) in DMF (15 mL). Purification by flash chromatography using 10% acetone in hexane as an eluant yielded a yellow gum (0.993 g); 1HNMR (200 MHz, DMSO-d6): δ8.5 (s, 1H), 8.25 (d, 1H, J=8.5 Hz), 8.15 (d, 1H, J=10 Hz), 7.95-8.1 (m, 2H), 7.75 (d, 1H, J=7.5 Hz), 7.2-7.4 (m, 3H), 5.15 (s, 2H), 4.15 (q, 2H, J=6.7 Hz), 2.75 (t, 2H, J=7.5 Hz), 1.5-1.65 (m, 2H), 1.1-1.3 (m, 4H), and 0.7 ppm (t, 3H, J=7.3 Hz).

reactant | 1-[2-(5-bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone | 3.73 mmol, 1.58 g | BrC1=C2C=CC(=CC2=CC=C1O)C=1OC2=C(C1C(CCCC)=O)C=CC=C2 | C23H19BrO3
reactant | sodium hydride | 4.85 mmol, 0.194 g | [H-].[Na+]
reactant | ethyl bromoacetate | 4.5 mmol, 0.51 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC(=O)OCC | C27H25BrO5
